US07550480B2
1,5-Bis(2-Chlorophenyl)-7-[(2-hydroxy-1-(hydroxymethyl)ethyl]-amino][1,6]naphthyridin-2(1H)-one
7-Bromo-1,5-bis(2-chlorophenyl)[1,6]naphthyridin-2(1H)-one (38 mg, 0.085 mmol) was dissolved in NMP (2 ml) and serinol (2-amino-1,3-propanediol) (35 mg, 0.384 mmol) added, and the solution heated in a Smith creator microwave at 220° for 0.5 h. After cooling, the solution was added to water (12 ml) and extracted with dichloromethane (10 ml). The mixture was passed through a hydrophobic frit and evaporated in vacuo. The residue was purified by SPE (SiO2, 10 g) eluting with dichloromethane-methanol (98:2) to afford the title compound as a gum (9 mg, 23%).

reactant | 7-Bromo-1,5-bis(2-chlorophenyl)[1,6]naphthyridin-2(1H)-one | 0.085 mmol, 38 mg | BrC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1)Cl)=O)C1=C(C=CC=C1)Cl | C20H11BrCl2N2O
reactant | serinol | 0.384 mmol, 35 mg | NC(CO)CO | C3H9NO2
reactant | water | 12 ml | O | H2O
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 1,5-Bis(2-Chlorophenyl)-7-[(2-hydroxy-1-(hydroxymethyl)ethyl]-amino][1,6]naphthyridin-2(1H)-one | 9 mg, 23% | ClC1=C(C=CC=C1)N1C(C=CC2=C(N=C(C=C12)NC(CO)CO)C1=C(C=CC=C1)Cl)=O | C23H19Cl2N3O3
